US06277998B1
First, 2.00 g of 2-cyano-4′-methyl-1,1′-biphenyl was dissolved in a mixture of 15, ml of methanol and 4.18 g of triethylamine, and hydrogen sulfide gas was bubbled thereinto at room temperature to the point of saturation. After keeping at room temperature for 3 days, the solution was kept at 50° C. for 6 hours. The reaction mixture was concentrated under reduced pressure, and the residue was extracted with ethyl acetate containing 1% hydrochloric acid. The organic layer was concentrated to give 2.18 g of 2-thiocarbamoyl-4′-methyl-1,1′-biphenyl. Yield, 92%; m.p., 111-115° C.; m/z, 227

reactant | 2-cyano-4′-methyl-1,1′-biphenyl | 2.00 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)C | C14H11N
reactant | triethylamine | 4.18 g | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
solvent | methanol | CO | CH4O
product | 2-thiocarbamoyl-4′-methyl-1,1′-biphenyl | 2.18 g | C(N)(=S)C1=C(C=CC=C1)C1=CC=C(C=C1)C | C14H13NS
